US08980911B2
N-[3-(2-Chloro-6-fluorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-5-yl]cyclopropanecarboxamide was prepared using N-(1H-pyrrolo[2,3-c]pyridin-5-yl)cyclopropane carboxamide and 2-chloro-6-fluoro benzoyl chloride (Compound No. 19).

reactant | N-(1H-pyrrolo[2,3-c]pyridin-5-yl)cyclopropane carboxamide | N1C=CC=2C1=CN=C(C2)NC(=O)C2CC2 | C11H11N3O
reactant | 2-chloro-6-fluoro benzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
product | N-[3-(2-Chloro-6-fluorobenzoyl)-1H-pyrrolo[2,3-c]pyridin-5-yl]cyclopropanecarboxamide | ClC1=C(C(=O)C2=CNC3=CN=C(C=C32)NC(=O)C3CC3)C(=CC=C1)F | C18H13ClFN3O2
